US05635527
(1) t-Butyl 4-(5-cyanofuro[2,3-b]pyridine-2-carbonylamino)phenoxy-acetate
5-Cyanofuro[2,3-b]pyridine-2-carboxylic acid (108 mg, 0.574 mmol) and t-butyl 4-aminophenoxyacetate (141 mg, 0.632 mmol) were dissolved in N,N-dimethylformamide (10 ml) and 1-hydroxy-1H-benzotriazole (85.3 mg, 0.632 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (121 mg, 0.632 mmol) were added. The mixture was stirred at room temperature for 14 hours. Water (100 ml) was poured into the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. Low boiling matters were distilled away under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/1) to quantitatively give 232 mg of t-butyl 4-(5-cyanofuro[2,3-b]pyridine-2-carbonylamino)phenoxyacetate as a pale-yellow solid.

reactant | 5-Cyanofuro[2,3-b]pyridine-2-carboxylic acid | 0.574 mmol, 108 mg | C(#N)C=1C=C2C(=NC1)OC(=C2)C(=O)O | C9H4N2O3
reactant | t-butyl 4-aminophenoxyacetate | 0.632 mmol, 141 mg | NC1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C12H17NO3
reactant | 1-hydroxy-1H-benzotriazole | 0.632 mmol, 85.3 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.632 mmol, 121 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | 100 ml | O | H2O
product | t-Butyl 4-(5-cyanofuro[2,3-b]pyridine-2-carbonylamino)phenoxy-acetate | C(#N)C=1C=C2C(=NC1)OC(=C2)C(=O)NC2=CC=C(OCC(=O)OC(C)(C)C)C=C2 | C21H19N3O5
